US04892875
1-Piperazineethanol was benzylated with benzyl bromide in the same manner as Reference Example 1-(1) to give 4-benzyl-1-piperazineethanol as an oil. Yield 80.8%. NMR(CDCl3)δ: 2.42-2.65(10H, m), 3.33(1H, s), 3.49(2H, s), 3.59(2H, t, J=5), 7.23(5H, s).

reactant | 1-Piperazineethanol | N1(CCNCC1)CCO | C6H14N2O
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 4-benzyl-1-piperazineethanol | Yield 80.8% | C(C1=CC=CC=C1)N1CCN(CC1)CCO | C13H20N2O
